* Schematics Netlist *



R_R5         0 $N_0001  1k  
R_R9         0 $N_0002  1k  
R_R2         0 $N_0003  1k  
V_V1         $N_0004 0 12V
R_R1         $N_0004 $N_0003  10k  
R_R3         $N_0003 $N_0001  10k  
R_R4         $N_0001 $N_0002  10k  
